US06303612B1
4-(4-Methoxyphenylsulfanyl)benzoic acid was reduced with sodium bis-(methoxyethoxy)-aluminum hydride to provide in 51.5% yield 4-(4-methoxyphenylsulfanyl)benzyl alcohol. Its reaction with thionyl chloride provided in 93.3% yield the corresponding benzyl chloride which treated with sodium cyanide provided in 71.1% 4-(4-methoxyphenylsulfanyl)phenylacetonitrile. Alkaline hydrolysis provided after work-up 47.5% yield of 4-(4-methoxyphenyl-sulfanyl)phenylacetic acid, m.p. 85-87° C. Demethylation of this acid with pyridine hydrochloride provided in 98.0% yield 4-(4-hydroxyphenylsulfanyl) phenylacetic acid, m.p. 83-85° C., which was esterified with methanol in the presence of 4-toluenesulfonic acid to give the required ester as an oil. For C15H14O3S (274.3) calculated: 11.67% S; found: 11.49%. 1H NMR spectrum (CDCl3): H(O) 5.63 bs; CH2 3.58 s; aromatic H on the phenolic nucleus: H(2,6) 6.76 d, J=8.8 Hz; H(3,5) 7.33 d, J=8.8 Hz.

reactant | 4-(4-Methoxyphenylsulfanyl)benzoic acid | COC1=CC=C(C=C1)SC1=CC=C(C(=O)O)C=C1 | C14H12O3S
reactant | sodium bis-(methoxyethoxy)-aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
product | 4-(4-methoxyphenylsulfanyl)benzyl alcohol | 51.5% yield | COC1=CC=C(C=C1)SC1=CC=C(CO)C=C1 | C14H14O2S
